US05236958
A 4.53 g (20.9 mmoles) quantity of 3-chloromethyl-5-nitrosalicylaldehyde and 5.48 g (20.9 mmoles) of triphenylphosphine were dissolved in 30 ml of benzene and the solution obtained was refluxed with heating for 8 hours. After the reaction, the precipitate obtained was isolated by filtration, washed thoroughly with acetone and dried, giving 8.63 g (yield: 86%) of 3-formyl-2-hydroxy-5-nitrobenzyltriphenylphosphonium chloride as a yellow powder.

reactant | 3-chloromethyl-5-nitrosalicylaldehyde | ClCC1=C(C(C=O)=CC(=C1)[N+](=O)[O-])O | C8H6ClNO4
reactant | triphenylphosphine | 20.9 mmoles, 5.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-formyl-2-hydroxy-5-nitrobenzyltriphenylphosphonium chloride | 8.63 g, yield: 86% | [Cl-].C(=O)C=1C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-])O | InChI=1S/C26H20NO4P.ClH/c28-18-20-16-22(27(30)31)17-21(26(20)29)19-32(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-18H,19H2;1H
